US04057641
2-(2-Ethyl-4-oxo-4H-1-benzopyran-6-yl)propan-1-ol (4.1g) was taken up in ethanol (100 ml), Raney Nickel (5.0 g) was added and the mixture hydrogenated at 45 psi for 2 hours. The catalyst was removed by filtration (Hyflo supercel) and replaced with a fresh batch (5.0 g) and hydrogenation at 45 psi continued for a further 3 hours. The catalyst was removed by filtration and the filtrate evaporated to yield 2-(2,3-dihydro-2-ethyl-4-oxo-4H-1-benzopyran-6-yl)propanol as a pale green oil (4.5 g), I.R. carbonyl absorption 1690 cms-1.

reactant | 2-(2-Ethyl-4-oxo-4H-1-benzopyran-6-yl)propan-1-ol | 4.1g | C(C)C=1OC2=C(C(C1)=O)C=C(C=C2)C(CO)C | C14H16O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 5.0 g | [Ni] | Ni
product | 2-(2,3-dihydro-2-ethyl-4-oxo-4H-1-benzopyran-6-yl)propanol | 4.5 g | C(C)C1OC2=C(C(C1)=O)C=C(C=C2)C(CO)C | C14H18O3
